Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:3][C:4]([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:10]([H:11])([H:12])[H:13].[O:8][H:9],2.68971394585
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.5472833043800005
[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.09338893263
[C:9]([H:10])[H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]=[O:8]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11],-2.1582909476700003
[H:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:3]=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2],8.74719882548
[C:1][C:2][O:3].[C:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.38830104391
[H:11].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.5768332554
[H:1][O:2][C:3]#[C:4][H:5].[O:6]=[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],1.37225904195
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3],5.68020690448
[H:1][O:2][C@@:3]1([H:4])[C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13]>>[C:3]1([H:4])=[C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13].[H:1][O:2],3.57339948589
[H:1][C:2]=[C:10]([H:11])[H:12].[H:3][C:4]([H:5])=[C:8]([C:7]#[C:6])[H:9]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])=[C:10]([H:11])[H:12],-6.09808657666
[H:1][C:2]1=[C:3][C:4]([H:5])=[C:6]([H:7])[O:8][C:9]1([H:10])[H:11]>>[H:1][C:2]([C:3]#[C:4][H:5])[C:9]([O:8][C:6][H:7])([H:10])[H:11],2.90999891657
[C:5](\[H:6])(=[C:7]\[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],1.92914422278
[C:9]([H:10])[H:11].[O:1]=[C:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8]>>[O:1]=[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-4.38246571039
[H:1][C:2]1[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[O:10][C:11]1([H:12])[H:13]>>[H:1][C:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])[H:13],4.29653221425
[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])[H:9]>>[O:1]=[C:2]([H:3])[C:4]#[C:5].[O:6]=[C:7]([H:8])[H:9],1.88429424783
[H:1][C:2]/[C:3](=[C:4](/[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3](=[C:4](\[H:5])[O:6][H:7])\[C:8]([H:9])([H:10])[H:11].[H:1][C:2],5.9770096316100005
[H:16].[H:1][O:2][C:3](=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][C:3](=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.55171439134
[C:1].[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-7.012341730499999
[H:1][C:2]([O:3][O:4])=[C:5]([H:6])[H:7]>>[H:1][C:2]1[O:3][O:4][C:5]1([H:6])[H:7],0.89045461279
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12]>>[H:1].[O:2]=[C:3]=[C:4]([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12],0.8908854708859999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:11][H:12],1.69585732626
[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7][H:8]>>[H:1][C:2][O:3][C@:4]1([H:5])[O:6][C:7]1[H:8],-1.95380884794
[H:4].[O:1]=[C:2]([H:3])[O:5][H:6]>>[O:1][C:2]([H:3])([H:4])[O:5][H:6],-0.501726257028
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](/[H:7])[O:8][C:9][H:10]>>[C:6]([H:7])[O:8][C:9][H:10].[H:1][C:2][O:3][C:4][H:5],7.71887757634
[H:1][C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17],-5.23728199764
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:3]([H:4])#[C:5][H:6].[H:1][C:2]=[C:7]([H:8])[H:9],2.13952107208
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:6],1.8247240015
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1],5.53779791039
